US07470717B2
The product obtained using (E)-4-[2-(1H-indazol-3-yl)vinyl]benzoic acid (1.50 g, 5.68 mmol), sarcosine ethyl ester hydrochloride (1.05 g, 6.81 mmol), 1-hydroxybenzotriazole monohydrate (1.31 g, 6.81 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.63 g, 8.52 mmol) and N-methylmorpholine (1.87 mL, 17.0 mmol) in a similar manner to Example 5, was neutralized by adding 2 mol/L aqueous sodium hydroxide solution (20 ml), and the mixture was filtered to obtain (E)-N-methyl-N-carboxymethyl-4-[2-(1H-indazol-3-yl)vinyl]benzamide (1.04 g, 55%).

reactant | (E)-4-[2-(1H-indazol-3-yl)vinyl]benzoic acid | 5.68 mmol, 1.50 g | N1N=C(C2=CC=CC=C12)/C=C/C1=CC=C(C(=O)O)C=C1 | C16H12N2O2
reactant | sarcosine ethyl ester hydrochloride | 6.81 mmol, 1.05 g | Cl.C(C)OC(CNC)=O
reactant | 1-hydroxybenzotriazole monohydrate | 6.81 mmol, 1.31 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 8.52 mmol, 1.63 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-methylmorpholine | 17.0 mmol, 1.87 mL | CN1CCOCC1 | C5H11NO
solvent | sodium hydroxide | 2 mol/L, 20 ml | [OH-].[Na+]
product | (E)-N-methyl-N-carboxymethyl-4-[2-(1H-indazol-3-yl)vinyl]benzamide | 1.04 g, 55% | CN(C(C1=CC=C(C=C1)\C=C\C1=NNC2=CC=CC=C12)=O)CC(=O)O | C19H17N3O3
